US06743800B1
a) 4-([1,8]Naphthyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
3.14 g of 1-tert-butoxycarbonyl-4-acetyl-piperidine and 1.83 g of 2-amino-3-formyl-pyridine were refluxed with 0.25 g of L-proline in n-butanol for 72 hours. After removing the solvent in vacuo the residue was combined with the residue obtained in an identical reaction and chromatographed on silica gel with ethyl acetate/n-heptane (1:1) to give 1.08 g of the title compound.

reactant | 1-tert-butoxycarbonyl-4-acetyl-piperidine | 3.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C)=O | C12H21NO3
reactant | 2-amino-3-formyl-pyridine | 1.83 g | NC1=NC=CC=C1C=O | C6H6N2O
reactant | L-proline | 0.25 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-([1,8]Naphthyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=NC=CC=C2C=C1 | C18H23N3O2
